US05153214
A solution of 8 g of methyl 7-(p-chlorophenylsulfonamido)-6-(3-pyridyl)heptanoate in 100 ml of methanol and 100 ml of 1N aqueous sodium hydroxide is stirred at room temperature for 24 h, then evaporated to remove the methanol and acidified with 1N hydrochloric acid. The mixture is then extracted with ethyl acetate, the extract is dried over magnesium sulfate, filtered and evaporated, and the residue is treated with a saturated solution of HCl gas in ethyl acetate to yield 7-(p-chlorophenylsulfonamido)-6-(3-pyridyl)-heptanoic acid hydrochloride, m.p. 169°-172°.

reactant | methyl 7-(p-chlorophenylsulfonamido)-6-(3-pyridyl)heptanoate | 8 g | ClC1=CC=C(C=C1)S(=O)(=O)NCC(CCCCC(=O)OC)C=1C=NC=CC1 | C19H23ClN2O4S
solvent | methanol | 100 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 7-(p-chlorophenylsulfonamido)-6-(3-pyridyl)-heptanoic acid hydrochloride | Cl.ClC1=CC=C(C=C1)S(=O)(=O)NCC(CCCCC(=O)O)C=1C=NC=CC1 | InChI=1S/C18H21ClN2O4S.ClH/c19-16-7-9-17(10-8-16)26(24,25)21-13-15(4-1-2-6-18(22)23)14-5-3-11-20-12-14;/h3,5,7-12,15,21H,1-2,4,6,13H2,(H,22,23);1H
